### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Matching): add `IsCycles` and `IsAlternating` with basic results

### PR DESCRIPTION
**Pull request by pimotte**
add `SimpleGraph.IsCycles` and `SimpleGraph.IsAlternating` with some basic results involving matchings. These are defined on `SimpleGraph`, because we want to use the `symmDiff` defined on there.
This is in preparation for Tutte's theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip thread on Tutte's](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 1]
```diff
@@ -27,6 +27,14 @@ one edge, and the edges of the subgraph represent the paired vertices.
 * `SimpleGraph.Subgraph.IsPerfectMatching` defines when a subgraph `M` of a simple graph is a
   perfect matching, denoted `M.IsPerfectMatching`.
 
+* `SimpleGraph.IsMatchingFree` means that a SimpleGraph `G` has no perfect matchings.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:30]:
```suggestion
* `SimpleGraph.IsMatchingFree` means that a simple graph `G` has no perfect matchings.
```
Same below

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 2]
```diff
@@ -309,4 +317,75 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
   obtain ⟨Gmax, hGmax⟩ := Finite.exists_le_maximal h
   exact ⟨Gmax, ⟨hGmax.1, ⟨hGmax.2.prop, fun _ h' ↦ hGmax.2.not_prop_of_gt h'⟩⟩⟩
 
+/-- A graph `G` consists of a set of cycles, if each vertex is either isolated or connected to
+exactly two vertices. This is used to create new matchings by taking the `symmDiff` with cycles.
+The definition of `symmDiff` that makes sense is the one for `SimpleGraph`. This is why this
+definition is for graphs, rather than subgraphs.
+-/
+def IsCycles (G : SimpleGraph V) := (∀ v : V, (G.neighborSet v) = ∅ ∨ (G.neighborSet v).ncard = 2)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:325]: I have a hunch that this will be easier to use
```suggestion
def IsCycles (G : SimpleGraph V) := ∀ ⦃v⦄, (G.neighborSet v).Nonempty → (G.neighborSet v).ncard = 2
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 3]
```diff
@@ -309,4 +317,75 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+    ∃ w', w ≠ w' ∧ G.Adj v w' := by
+  simp_rw [← SimpleGraph.mem_neighborSet] at hadj ⊢
+  cases' h v with hl hr
+  · exact ((Set.eq_empty_iff_forall_not_mem.mp hl) _ hadj).elim
+  · obtain ⟨w', hww'⟩ := (G.neighborSet v).exists_ne_of_one_lt_ncard (by omega) w
+    exact ⟨w', ⟨hww'.2.symm, hww'.1⟩⟩
+
+lemma Subgraph.IsPerfectMatching.symmDiff_spanningCoe_IsCycles
+    {M : Subgraph G} {M' : Subgraph G'} (hM : M.IsPerfectMatching)
+    (hM' : M'.IsPerfectMatching) : (symmDiff M.spanningCoe M'.spanningCoe).IsCycles := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:341]:
```suggestion
    (hM' : M'.IsPerfectMatching) : (M.spanningCoe ∆ M'.spanningCoe).IsCycles := by
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 4]
```diff
@@ -309,4 +317,75 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+    use w, w'
+    aesop
+
+/--
+A graph `G` is alternating with respect to some other graph `G'`, if exactly every other edge in
+`G` is in `G'`. Note that the degree of each vertex needs to be bounded by 2 for this to be
+possible. This property is used to create new matchings using `symmDiff`. The definition of
+`symmDiff` for `SimpleGraph` is the on
+-/
+def IsAlternating (G : SimpleGraph V) (G' : SimpleGraph V) :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:360]:
```suggestion
def IsAlternating (G  G' : SimpleGraph V) :=
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 5]
```diff
@@ -309,4 +317,75 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+    SimpleGraph.sup_adj, sdiff_adj, spanningCoe_adj, not_or, not_and, not_not, Set.ncard_eq_two,
+    ne_eq]
+  by_cases hww' : w = w'
+  · simp_all [hww']
+  · right
+    use w, w'
+    aesop
+
+/--
+A graph `G` is alternating with respect to some other graph `G'`, if exactly every other edge in
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:355]:
```suggestion
A graph `G` made up of cycles is alternating with respect to some other graph `G'`, if exactly every other edge in
```
because "every other edge" doesn't even make sense if this isn't the case, right?

Maybe `G.IsAlternating G'` should even assume `G.IsCycles`?

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 6]
```diff
@@ -309,4 +317,75 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+`G` is in `G'`. Note that the degree of each vertex needs to be bounded by 2 for this to be
+possible. This property is used to create new matchings using `symmDiff`. The definition of
+`symmDiff` for `SimpleGraph` is the on
+-/
+def IsAlternating (G : SimpleGraph V) (G' : SimpleGraph V) :=
+  ∀ {v w w': V}, w ≠ w' → G.Adj v w → G.Adj v w' → (G'.Adj v w ↔ ¬ G'.Adj v w')
+
+lemma IsPerfectMatching.symmDiff_spanningCoe_of_IsAlternating {M : Subgraph G}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:363]:
```suggestion
lemma IsPerfectMatching.symmDiff_spanningCoe_of_isAlternating {M : Subgraph G}
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 5 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean:358]: This is why I put "degree bounded by 2" (changed to `at most` because I think that's clearer). This could also be applied for augmenting paths, which can be used to extend matchings. (And in which case the endpoints of the paths have degree 1).

**Comment by pimotte** [comment]
Adopted most changes. Documentation-wise I'm now using graph/subgraph where I mean the mathematical concept and SimpleGraph/SimpleGraph.Subgraph when I mean the mathlib implementation. (If I should be consistently using graph/subgraph, I'm happy to adopt that, but this way seemed clear to me:))

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 7]
```diff
@@ -309,4 +317,79 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+
+/--
+A graph `G` is alternating with respect to some other graph `G'`, if exactly every other edge in
+`G` is in `G'`. Note that the degree of each vertex needs to be at most 2 for this to be
+possible. This property is used to create new matchings using `symmDiff`. The definition of
+`symmDiff` for `SimpleGraph` is the one that makes sense, so this property is defined
+for `SimpleGraph` as well.
+-/
+def IsAlternating (G  G' : SimpleGraph V) :=
+  ∀ {v w w': V}, w ≠ w' → G.Adj v w → G.Adj v w' → (G'.Adj v w ↔ ¬ G'.Adj v w')
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:365]:
```suggestion
  ∀ ⦃v w w': V⦄, w ≠ w' → G.Adj v w → G.Adj v w' → (G'.Adj v w ↔ ¬ G'.Adj v w')
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 8]
```diff
@@ -309,4 +317,79 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+
+lemma IsPerfectMatching.symmDiff_spanningCoe_of_isAlternating {M : Subgraph G}
+    (hM : M.IsPerfectMatching) (hG' : G'.IsAlternating M.spanningCoe) (hG'cyc : G'.IsCycles)  :
+    ((symmDiff M.spanningCoe G').toSubgraph (symmDiff M.spanningCoe G')
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:369]:
```suggestion
    ((M.spanningCoe ∆ G').toSubgraph (M.spanningCoe ∆ G')
```
unless I'm missing something?

**Comment by YaelDillies** [comment]
Can you possibly show how this will be used later?

**Comment by pimotte** [comment]
> Can you possibly show how this will be used later?

Yep, there's some work in progress in [this file](https://github.com/pimotte/TutteLean/blob/main/TutteLean/Part2.lean)

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 9]
```diff
@@ -309,4 +317,79 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
   obtain ⟨Gmax, hGmax⟩ := Finite.exists_le_maximal h
   exact ⟨Gmax, ⟨hGmax.1, ⟨hGmax.2.prop, fun _ h' ↦ hGmax.2.not_prop_of_gt h'⟩⟩⟩
 
+/-- A graph `G` consists of a set of cycles, if each vertex is either isolated or connected to
+exactly two vertices. This is used to create new matchings by taking the `symmDiff` with cycles.
+The definition of `symmDiff` that makes sense is the one for `SimpleGraph`. This is why this
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:322]: when you say "is the one for `SimpleGraph`", I don't know what the other option being discarded is. Could you clarify?

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 10]
```diff
@@ -309,4 +317,79 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+`symmDiff` for `SimpleGraph` is the one that makes sense, so this property is defined
+for `SimpleGraph` as well.
+-/
+def IsAlternating (G  G' : SimpleGraph V) :=
+  ∀ ⦃v w w': V⦄, w ≠ w' → G.Adj v w → G.Adj v w' → (G'.Adj v w ↔ ¬ G'.Adj v w')
+
+lemma IsPerfectMatching.symmDiff_spanningCoe_of_isAlternating {M : Subgraph G}
+    (hM : M.IsPerfectMatching) (hG' : G'.IsAlternating M.spanningCoe) (hG'cyc : G'.IsCycles)  :
+    ((M.spanningCoe ∆ G').toSubgraph (M.spanningCoe ∆ G')
+    (by rfl)).IsPerfectMatching := by
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:370]:
```suggestion
      (by rfl)).IsPerfectMatching := by
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 11]
```diff
@@ -309,4 +317,79 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+possible. This property is used to create new matchings using `symmDiff`. The definition of
+`symmDiff` for `SimpleGraph` is the one that makes sense, so this property is defined
+for `SimpleGraph` as well.
+-/
+def IsAlternating (G  G' : SimpleGraph V) :=
+  ∀ ⦃v w w': V⦄, w ≠ w' → G.Adj v w → G.Adj v w' → (G'.Adj v w ↔ ¬ G'.Adj v w')
+
+lemma IsPerfectMatching.symmDiff_spanningCoe_of_isAlternating {M : Subgraph G}
+    (hM : M.IsPerfectMatching) (hG' : G'.IsAlternating M.spanningCoe) (hG'cyc : G'.IsCycles)  :
+    ((M.spanningCoe ∆ G').toSubgraph (M.spanningCoe ∆ G')
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:369]: Seems much clearer to write
```suggestion
    (SimpleGraph.toSubgraph (M.spanningCoe ∆ G')
```
?

It's sort of weird to use dot notation to write an implicit argument explicitly. Perhaps this suggests the design of `toSubgraph` needs changing.

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 12]
```diff
@@ -309,4 +317,79 @@ lemma exists_maximal_isMatchingFree [Finite V] (h : G.IsMatchingFree) :
...
+    aesop
+
+/--
+A graph `G` is alternating with respect to some other graph `G'`, if exactly every other edge in
+`G` is in `G'`. Note that the degree of each vertex needs to be at most 2 for this to be
+possible. This property is used to create new matchings using `symmDiff`. The definition of
+`symmDiff` for `SimpleGraph` is the one that makes sense, so this property is defined
+for `SimpleGraph` as well.
+-/
+def IsAlternating (G  G' : SimpleGraph V) :=
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:364]:
```suggestion
def IsAlternating (G G' : SimpleGraph V) :=
```

**Comment by kim-em** [comment]
bors d+

Please merge if you're confident you can resolve my queries above, otherwise set back to "awaiting review" (i.e. remove the maintainer merge and delegated labels) if you'd like further review.

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 9 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: Clarified in the comment:)
